US07119102B2
(2-Phenyl-1H-benzoimidazol-5-yl)-methanol (783 mg, 3.49 mmol) was dissolved in 20 mL THF. Added MnO2 (3.035 g, 34.91 mmol) and stirred at RT for 1 hour. Filtered through celite and removed solvent in vacuo. Obtained 769 mg (99.1%) of 2-Phenyl-1H-benzoimidazole-5-carbaldehyde as a light yellow foam.

reactant | (2-Phenyl-1H-benzoimidazol-5-yl)-methanol | 3.49 mmol, 783 mg | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)CO | C14H12N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 34.91 mmol, 3.035 g | O=[Mn]=O
product | 2-Phenyl-1H-benzoimidazole-5-carbaldehyde | 769 mg, 99.1% | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)C=O | C14H10N2O
